US05549770
Aluminium oxide-aluminium oxide composite
After the degassing, the slurry was transferred to a tank 2 included in the equipment for winding fiber thread. An aluminium oxide fiber--ALMAX, MITSUI--was led from the fiber spool 1, through the tank 2, where it was infiltrated with slurry before it was wound into a green body 4 on the graphite core 3.

reactant | aluminium oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | ALMAX | CC(C=C)NC(=S)NNC(=S)NC | C7H14N4S2
product | Aluminium oxide aluminium oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3].[O-2].[Al+3].[O-2].[O-2].[Al+3] | InChI=1S/4Al.6O/q4*+3;6*-2
